US07825155B2
3-tert-butyldimethylsilyloxycyclobutanone
To a solution of 2,2-dichloro-3-tert-butyldimethylsilyloxy-cyclobutanone (see, for example, Journal of Organic Chemistry, 44, 2560 (1979)) (3.20 g, 11.9 mmol) in saturated ammonium chloride methanol (70 mL) was added zinc-copper couple (3.89 g, 59.5 mmol) under nitrogen, and the mixture was stirred at room temperature for 24 hours. The mixture was evaporated, and then thereto was added water and the mixture was extracted with ethyl acetate, washed with saturated ammonium chloride water, and then dried over magnesium sulfate, and filtered. The filtrate was evaporated and purified by silica gel column chromatography (hexane/ethyl acetate=5/1) to give the titled compound (914 mg, 38%) as a colorless oil.

reactant | 2,2-dichloro-3-tert-butyldimethylsilyloxy-cyclobutanone | 11.9 mmol, 3.20 g | ClC1(C(CC1O[Si](C)(C)C(C)(C)C)=O)Cl | C10H18Cl2O2Si
solvent | ammonium chloride methanol | 70 mL | CO.[Cl-].[NH4+]
catalyst | zinc-copper couple | 59.5 mmol, 3.89 g | [Cu].[Zn]
product | 3-tert-butyldimethylsilyloxycyclobutanone | 914 mg, 38% | [Si](C)(C)(C(C)(C)C)OC1CC(C1)=O | C10H20O2Si
